US07825128B2
(RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(S)-1-(hydroxymethyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction (S)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-4-methyl-pentan-1-ol (278 mg, 0.89 mmol) with (RS)—S-(4-amino-phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide (240 mg, 0.99 mmol) according to procedure 5b, the desired product is obtained in 42% yield (220 mg) after chromatographic purification (silica gel, dichloromethane/methanol (0%-10% methanol)).

reactant | (S)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-4-methyl-pentan-1-ol | 0.89 mmol, 278 mg | ClC1=NC=C(C(=N1)N[C@H](CO)CC(C)C)C1=CSC=C1 | C14H18ClN3OS
reactant | (RS)—S-(4-amino-phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 0.99 mmol, 240 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(S)-1-(hydroxymethyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 42% yield | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CC(C)C)CO)C1=CSC=C1 | C24H31N5O4S2
